US04622339
28.7 g (0.11 mole) of methyl 6-(3-hydroxymethylbicyclo[2.2.1]hept-2-yl)-hex-2-enoate are hydrogenated in 450 ml of methanol, with the addition of 12 g of palladium-on-charcoal (5% strength), at 60° C. under a pressure of 30 bar for 11/2 hours. The catalyst is removed by filtration, the methanol is evaporated off in vacuo and the oil which remains is chromatographed on silica gel, using methylene chloride/methanol (99:1), to give 25.5 g (91% yield) of methyl 6-(3-hydroxymethyl-bicyclo[2.2.1]hept-2-yl)-hexanoate.

reactant | methyl 6-(3-hydroxymethylbicyclo[2.2.1]hept-2-yl)-hex-2-enoate | 0.11 mole, 28.7 g | OCC1C(C2CCC1C2)CCCC=CC(=O)OC | C15H24O3
solvent | methanol | 450 ml | CO | CH4O
catalyst | palladium-on-charcoal | 12 g | [Pd] | Pd
product | methyl 6-(3-hydroxymethyl-bicyclo[2.2.1]hept-2-yl)-hexanoate | 25.5 g, 91% yield | OCC1C(C2CCC1C2)CCCCCC(=O)OC | C15H26O3
